US05587389
13. 2-{[[4-(2-furylmethylthio)-3-methyl-2-pyridinyl]methyl]thio}-5-trifluoromethyl-1H-benzimidazole dihydrochloride
Following the procedure described in Example 12, the reaction of 2-chloromethyl-4-(2-furylmethylthio)-3-methylpyridine hydrochloride with 2-mercapto-5-trifluoromethyl-1H-benzimidazole in isopropanol gives the title compound as a colorless solid; m.p. 173° C (decomp.).

reactant | 2-chloromethyl-4-(2-furylmethylthio)-3-methylpyridine hydrochloride | Cl.ClCC1=NC=CC(=C1C)SCC=1OC=CC1
reactant | 2-mercapto-5-trifluoromethyl-1H-benzimidazole | SC1=NC2=C(N1)C=CC(=C2)C(F)(F)F | C8H5F3N2S
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-{[[4-(2-furylmethylthio)-3-methyl-2-pyridinyl]methyl]thio}-5-trifluoromethyl-1H-benzimidazole dihydrochloride | Cl.Cl.O1C(=CC=C1)CSC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC(=C2)C(F)(F)F)C | InChI=1S/C20H16F3N3OS2.2ClH/c1-12-17(24-7-6-18(12)28-10-14-3-2-8-27-14)11-29-19-25-15-5-4-13(20(21,22)23)9-16(15)26-19;;/h2-9H,10-11H2,1H3,(H,25,26);2*1H
